US07939666B2
Stage 5: (S)-{3-[(2-Hydroxycarbamoyl-benzo[b]thiophen-6-ylmethyl)-amino]-benzyl-amino}-phenyl-acetic acid cyclopentyl ester (130)
To a solution of (S)-[tert-Butoxycarbonyl-(3-{[2-(1-isobutoxy-ethoxycarbamoyl)-benzo[b]thiophen-6-ylmethyl]-amino}-benzyl)-amino]-phenyl-acetic acid cyclopentyl ester (0.100 g, 0.14 mmol) in DCM/MeOH (1 ml:1 ml) was added TFA (8 ml). The solution was stirred for 2 h, then diluted with DCM (200 ml). The solution was washed with saturated sodium bicarbonate (100 ml). The solution was dried (Na2SO4), concentrated and purified by reverse phase HPLC to yield the desired product (8.1 mg, 11% yield). LCMS purity 98%, m/z 531 (M+H)+ 300 MHz, DMSO, 6:1.26-1.85 (8H, m), 3.47 (2H, s), 4.21 (1H, s), 4.38 (2H, d, J=5.8 Hz), 5.02-5.07 (1H, m), 6.32 (1H, t, J=6.0 Hz), 6.45 (2H, d, J=7.9 Hz), 6.57 (1H, s), 6.97 (1H, t, J=7.8 Hz), 7.23-7.35 (5H, m), 7.42 (1H, dd, J 1.2, 8.3 Hz), 7.84 (1H, s), 7.87 (1H, s), 7.93 (1H, s), 9.23 (1H, brs), 11.4 (1H, brs)

reactant | (S)-[tert-Butoxycarbonyl-(3-{[2-(1-isobutoxy-ethoxycarbamoyl)-benzo[b]thiophen-6-ylmethyl]-amino}-benzyl)-amino]-phenyl-acetic acid cyclopentyl ester | 0.14 mmol, 0.100 g | C1(CCCC1)OC([C@H](C1=CC=CC=C1)N(CC1=CC(=CC=C1)NCC=1C=CC2=C(SC(=C2)C(NOC(C)OCC(C)C)=O)C1)C(=O)OC(C)(C)C)=O | C41H51N3O7S
reactant | TFA | 8 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM MeOH | 1 ml | C(Cl)Cl.CO
solvent | DCM | 200 ml | C(Cl)Cl | CH2Cl2
product | (S)-{3-[(2-Hydroxycarbamoyl-benzo[b]thiophen-6-ylmethyl)-amino]-benzyl-amino}-phenyl-acetic acid cyclopentyl ester | 8.1 mg, 11% yield | C1(CCCC1)OC([C@H](C1=CC=CC=C1)NCC1=CC(=CC=C1)NCC=1C=CC2=C(SC(=C2)C(NO)=O)C1)=O | C30H31N3O4S
